US05021413
Triethylamine (23.6 ml) was added at 0° C. to a solution of DL-thiomorpholine-3-carboxylic acid (5 g) in 40 ml of a 1:1 mixture of 1,4-dioxane and water. Thereafter, di-t-butyl dicarbonate (8.16 g) was added and the reaction mixture was stirred for 30 minutes at 0° C. and for 3 hours at room temperature. The solvent was evaporated under reduced pressure and the residue was dissolved in 100 ml of ethyl acetate. The pH of the reaction solution was adjusted to 4 using saturated citric acid solution and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was recrystallized from hexane/ethyl acetate to yield 6.0 g (71%) of 4-(t-butoxycarbonyl)thiomorpholine-3-carboxylic acid.

reactant | Triethylamine | 23.6 ml | C(C)N(CC)CC | C6H15N
reactant | thiomorpholine-3-carboxylic acid | 5 g | N1C(CSCC1)C(=O)O | C5H9NO2S
reactant | 1,4-dioxane | O1CCOCC1 | C4H8O2
reactant | di-t-butyl dicarbonate | 8.16 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | O | H2O
product | 4-(t-butoxycarbonyl)thiomorpholine-3-carboxylic acid | 6.0 g, 71% | C(C)(C)(C)OC(=O)N1C(CSCC1)C(=O)O | C10H17NO4S
